US03960849
5-(Dimethylamino-3-(phenylmethyl)-1,2,4-oxadiazole from part (a) is treated with a solution of butyl lithium and carbon dioxide according to the procedure of Example 1 (b) to yield 5-(dimethylamino)-α-phenyl-1,2,4-oxadiazole-3-acetic acid.

reactant | Dimethylamino-3-(phenylmethyl)-1,2,4-oxadiazole | CN(C)C1=NC(=NO1)CC1=CC=CC=C1 | C11H13N3O
reactant | butyl lithium | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
product | 5-(dimethylamino)-α-phenyl-1,2,4-oxadiazole-3-acetic acid | CN(C1=NC(=NO1)C(C(=O)O)C1=CC=CC=C1)C | C12H13N3O3
